US04607039
A mixture of 2,4-dichloro-3-o-tolylquinoline (3 g.) and sodium methoxide (1.9 g.) in dimethylformamide (30 ml.) was heated at 60° for 6 hr. The mixture was cooled and poured into water (500 ml.), and the mixture was extracted with ethyl acetate (2×100 ml.). The ethyl acetate extract was washed with water (2×50 ml.) and then dried (MgSO4). The solvent was evaporated and the residue (containing 2,4-dimethoxy-3-o-tolylquinoline) was used without further purification. A mixture of said residue (2.6 g.) and 2M-hydrochloric acid (50 ml.) was heated at 100° for 2 hr. The mixture was cooled and filtered. The solid residue was crystallised from ethyl acetate-petroleum ether (b.p. 60°-80°) to give 4-methoxy-3-o-tolylquinolin-2-one, m.p. 215°.

reactant | 2,4-dichloro-3-o-tolylquinoline | 3 g | ClC1=NC2=CC=CC=C2C(=C1C1=C(C=CC=C1)C)Cl | C16H11Cl2N
reactant | sodium methoxide | 1.9 g | C[O-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-methoxy-3-o-tolylquinolin-2-one | COC1=C(C(NC2=CC=CC=C12)=O)C1=C(C=CC=C1)C | C17H15NO2
